US09163021B2
Thionyl chloride (5.26 mL, 72 mmol) was added to [1-isopropyl-5-(trifluoromethyl)-1H-pyrazol-4-yl]methanol (Preparation 105, 7.5 g, 36 mmol) in DCM (75 mL) at 0° C. and the mixture was stirred for 2 hours. The mixture was diluted with DCM (30 mL) and the organic phase was washed with water (75 mL), brine (75 mL) and dried over sodium sulphate. The filtrate was evaporated in vacuo to afford 4-(chloromethyl)-1-isopropyl-5-(trifluoromethyl)-1H-pyrazole (86%, 7 g).

reactant | Thionyl chloride | 72 mmol, 5.26 mL | S(=O)(Cl)Cl | Cl2OS
reactant | [1-isopropyl-5-(trifluoromethyl)-1H-pyrazol-4-yl]methanol | 36 mmol, 7.5 g | C(C)(C)N1N=CC(=C1C(F)(F)F)CO | C8H11F3N2O
solvent | DCM | 75 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 30 mL | C(Cl)Cl | CH2Cl2
product | 4-(chloromethyl)-1-isopropyl-5-(trifluoromethyl)-1H-pyrazole | 7 g, 86% | ClCC=1C=NN(C1C(F)(F)F)C(C)C | C8H10ClF3N2
